US06582351B1
A mixture of 4-[(trans-4-aminocyclohexyl)amino]-3-nitrobenzonitrile (987 mg), di-tert-butyl dicarbonate (910 mg) and triethylamine (422 mg) in anhydrous N,N-dimethylformamide (10 mL) was stirred at ambient temperature for 5 hours. The mixture was partitioned between water and ethyl acetate. The separated organic layer was washed successively with water and brine and dried over magnesium sulfate. After evaporation of the solvent, the residue was triturated with diisopropyl ether to give 4-[[trans-4-(N-tert-butoxycarbonylamino)cyclohexyl]amino]-3-nitrobenzonitrile (1.23 g) as yellow powders.

reactant | 4-[(trans-4-aminocyclohexyl)amino]-3-nitrobenzonitrile | 987 mg | N[C@@H]1CC[C@H](CC1)NC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C13H16N4O2
reactant | di-tert-butyl dicarbonate | 910 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 422 mg | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-[[trans-4-(N-tert-butoxycarbonylamino)cyclohexyl]amino]-3-nitrobenzonitrile | 1.23 g | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)NC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C18H24N4O4
